US07932277B2
(1R,2R)-1-(tert-butoxycarbonyl)-2-ethylcyclopropanecarboxylic acid (0.5 g, 2.18 mmol) was dissolved in THF (20 mL), followed by addition of CDI (390 mg, 2.41 mmol) in one portion at rt. The reaction was stirred in a 60° C. sandbath for 4 h, cooled to rt, and cyclopropanesulfonamide (292 mg, 2.41 mmol) and DBU (366 mg, 2.41 mmol) were added. The reaction was stirred at rt for overnight. The reaction was then diluted with EtOAc (30 mL) and washed with 1 N HCl (2×15 mL), water (10 mL), brine (10 mL), and dried (Na2SO4), giving tert-butyl (1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamate (0.53 g, 73% yield) as a white solid after removal of solvent. This crude product was directly used for the next without further purification.

reactant | (1R,2R)-1-(tert-butoxycarbonyl)-2-ethylcyclopropanecarboxylic acid | 2.18 mmol, 0.5 g | C(C)(C)(C)OC(=O)[C@]1([C@@H](C1)CC)C(=O)O | C11H18O4
reactant | CDI | 2.41 mmol, 390 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopropanesulfonamide | 2.41 mmol, 292 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 2.41 mmol, 366 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamate | 0.53 g, 73% yield | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)CC)NC(OC(C)(C)C)=O | C14H24N2O5S
